US05616752
A process according to claim 5 wherein 5-hexene-2-one is reacted with cyclopentadiene to yield 6-(3-butenyl)-6-methylfulvene which is then reacted with fluorenyllithium and then subjected to hydrolysis to yield 5-cyclopentadienyl-5-(9-fluorenyl )-1-hexene.

reactant | 5-hexene-2-one | CC(CCC=C)=O | C6H10O
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
product | 6-(3-butenyl)-6-methylfulvene | C(CC=C)C(=C1C=CC=C1)C | C11H14
